US08957203B2
Preparation of intermediate 1-chloro-6-propoxyisoquinoline
A mixture of 1-chloroisoquinolin-6-ol (0.898 g, 5 mmol), 1-bromopropane (1.230 g, 10.00 mmol), and K2CO3 (2.073 g, 15.00 mmol) in acetone (20 mL) was refluxed for 16 h. The reaction mixture was filtrated and washed with acetone. the filtrate was concentrated and purified by silica gel chromatography eluting with 10-20% ethyl acetate in hexane to give 700 mg of the product 1-chloro-6-propoxyisoquinoline as a solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.27-8.16 (m, 2H), 7.48 (d, J=5.8 Hz, 1H), 7.31 (dd, J=9.3, 2.5 Hz, 1H), 7.09 (d, J=2.5 Hz, 1H), 4.09 (t, J=6.5 Hz, 2H), 2.02-1.84 (m, 2H), 1.11 (d, J=14.8 Hz, 1H); MS: MS m/z 222.16 (M++1).

reactant | 1-chloroisoquinolin-6-ol | 5 mmol, 0.898 g | ClC1=NC=CC2=CC(=CC=C12)O | C9H6ClNO
reactant | 1-bromopropane | 10.00 mmol, 1.230 g | BrCCC | C3H7Br
reactant | K2CO3 | 15.00 mmol, 2.073 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1-chloro-6-propoxyisoquinoline | 700 mg | ClC1=NC=CC2=CC(=CC=C12)OCCC | C12H12ClNO
